US04931560
Preparation of 2-phenylamino-4-bromomethyl-6-cyclopropylpyrimidine
15.6 g (75 mmol) of thionyl bromide in 50 ml of diethyl ether are added dropwise within a period of half an hour, with stirring, to 12 g (50 mmol) of 2-phenylamino-4-hydroxymethyl-6-cyclopropylpyrimidine and 0.4 g (50 mmol) of pyridine in 350 ml of diethyl ether. After stirring for 2 hours at room temperature, a further 0.4 g (50 mmol) of pyridine are added and the mixture is heated under reflux for 5 hours. After cooling to room temperature, 200 ml of water are added and the pH is adjusted to 7 by the dropwise addition of 140 ml of saturated sodium hydrogen carbonate solution. The diethyl ether phase is separated off and then washed twice with 100 ml of water each time, dried over sodium sulfate and filtered, and the solvent is evaporated. The brown oil which remains is purified by column chromatography over silica gel (toluene/chloroform/diethyl ether/petroleum ether (b.p. 50°-70° C.): 5/3/1/1). After the eluant mixture has been evaporated off, the yellow oil is diluted with diethyl ether/petroleum ether (b.p. 50°-70° C.) and crystallised at reduced temperature. The yellow crystalline powder melts at 77.5°-79.5° C. Yield: 9.7 g (32 mmol; 64% of the theoretical yield).

reactant | thionyl bromide | 75 mmol, 15.6 g | S(=O)(Br)Br | Br2OS
reactant | 2-phenylamino-4-hydroxymethyl-6-cyclopropylpyrimidine | 50 mmol, 12 g | C1(=CC=CC=C1)NC1=NC(=CC(=N1)CO)C1CC1 | C14H15N3O
reactant | pyridine | 50 mmol, 0.4 g | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 50 mmol, 0.4 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | 140 ml | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 2-phenylamino-4-bromomethyl-6-cyclopropylpyrimidine | C1(=CC=CC=C1)NC1=NC(=CC(=N1)CBr)C1CC1 | C14H14BrN3
